US09034866B2
10-bromo-9-fluoro-3-formyl-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide (75 mg) was reacted with DL-3-hydroxypyrrolidine similarly to as described in the synthesis of 9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-3-[(4-methylpiperazin-1-yl)methyl]-5,6,7,12-tetrahydro-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide to afford 10-bromo-9-fluoro-3((3-hydroxypyrrolidin-1-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide which was directly reacted with 2-Methyl-3-butyne-ol via

reactant | 10-bromo-9-fluoro-3-formyl-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | 75 mg | BrC=1C(=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)C=O)C1)F | C15H11BrFN3O2
reactant | DL-3-hydroxypyrrolidine | C1CNCC1O | C4H9NO
product | 10-bromo-9-fluoro-3((3-hydroxypyrrolidin-1-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)CN3CC(CC3)O)C1)F | C19H20BrFN4O2
